US06699910B2
To a stirred solution of KOH (4.83 g, 75 mmol) in water (4.2 mL) and ethanol (15 mL) was added 2,2-bis(6-hydroxy-5,5-dimethyl-hexyl)-malonic acid diethyl ester (15 g). The reaction mixture was heated to reflux for 14 h, then concentrated in vacuo, and extracted with chloroform. The aqueous layer was acidified with HCl until pH 1 and extracted with diethyl ether (3×50 mL). The ethereal solution was dried over anhydrous MgSO4 and concentrated in vacuo to afford get 2,2-bis-(6-hydroxy-5,5-dimethyl-hexyl)-malonic acid (7.8 g, 82.3%) as a yellow solid. 1H NMR (300 MHz, CD3OD/TMS): δ (ppm) 4.86 (s, 4H), 3.22 (s, 4H), 1.9-1.8 (m, 4H), 1.36-1.10 (m, 12H), 0.84 (s, 12H). 13C NMR (75 MHz, CD3OD/TMS): δ (ppm) 176.0, 72.0, 58.7, 39.8, 36.0, 34.1, 26.5, 25.5, 24.5. Mp.: 178-180° C.

reactant | KOH | 75 mmol, 4.83 g | [OH-].[K+]
reactant | 2,2-bis(6-hydroxy-5,5-dimethyl-hexyl)-malonic acid diethyl ester | 15 g | C(C)OC(C(C(=O)OCC)(CCCCC(CO)(C)C)CCCCC(CO)(C)C)=O | C23H44O6
solvent | water | 4.2 mL | O | H2O
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2,2-bis-(6-hydroxy-5,5-dimethyl-hexyl)-malonic acid | 7.8 g, 82.3% | OCC(CCCCC(C(=O)O)(C(=O)O)CCCCC(CO)(C)C)(C)C | C19H36O6
